US08013010B2
a) 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
A mixture composed of 8 g (17.9 mmol) of 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VII, 30 ml of DME, 0.438 g (0.537 mmol) of the [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane, 6.8 g (26.8 mmol) of bis(pinacolato)diboron and 5.2 g (53.7 mmol) of potassium acetate is heated at 150° C. for 35 minutes under an inert atmosphere using microwave radiation. The reaction mixture is subsequently concentrated under reduced pressure and the residual product is purified by chromatography on a silica column, elution being carried out using a toluene/isopropyl ether mixture (6/4; v/v). The desired product is obtained in the form of white crystals with a yield of 69%.

reactant | 3-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 17.9 mmol, 8 g | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | DME | 30 ml | COCCOC | C4H10O2
reactant | bis(pinacolato)diboron | 26.8 mmol, 6.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 53.7 mmol, 5.2 g | C(C)(=O)[O-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 69% | C(C)(=O)O[C@H]1[C@H](OC2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C23H31BO9S
